US07932282B2
A solution of 1,1-dimethylethyl 4-oxo-1-piperidinecarboxylate (3.0 g, 15 mmol) in THF (45 ml) was stirred at −78° C. under argon. Lithium hexamethyldisilazide (15 ml, 15 mmol, 1M solution in THF) was added dropwise and the reaction was stirred at −78° C. for 1 hour. A solution of 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (6.43 g, 18 mmol) in THF (12 ml) was added dropwise. The reaction was allowed to warm to room temperature over 2 hours. The reaction was quenched by the addition of water and the THF was evaporated. The residue was extracted with ether. The ether layer was separated and washed with water, 2N sodium hydroxide solution, water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 5-25% ethyl acetate in hexanes to give 1,1-dimethylethyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydro-1(2H)-pyridinecarboxylate (2.91 g, 59%). (ii) A solution of 1,1-dimethylethyl 4-{[(trifluoromethyl)sulfonyl]oxy}-3,6-dihydro-1(2H)-pyridinecarboxylate (2.65 g, 8 mmol), methyl 3-methyl-2-oxo-4-imidazolidinecarboxylate (1.26 g, 8 mmol) (prepared as described in step (ii) of Example 8) in 1,4-dioxane (50 ml) was treated with cesium carbonate (3.91 g, 12 mmol), Xantphos™ (348 mg, 0.6 mmol) and tris(dibenzylideneacetone)dipalladium(0) (183 mg, 0.2 mmol). The mixture was flushed with argon and the reaction was heated at reflux for 1 hour. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic layers were washed with water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-100% ethyl acetate in hexanes to give 1,1-dimethylethyl 4-{3-methyl-4-[(methyloxy)carbonyl]-2-oxo-1-imidazolidinyl}-3,6-dihydro-1(2H)-pyridinecarboxylate (1.7 g, 63%), LC/MS [M+H]+=340. (iii) A solution of 1,1-dimethylethyl 4-{3-methyl-4-[(methyloxy)carbonyl]-2-oxo-1-imidazolidinyl}-3,6-dihydro-1(2H)-pyridinecarboxylate (1.36 g, 4 mmol) in ethyl acetate (30 ml) containing palladium on charcoal (100 mg, 10% paste) was hydrogenated at room temperature and pressure for 24 hours. The mixture was filtered through Celite and the filtrate was evaporated. The residue was purified by silica gel chromatography eluting with 50-100% ethyl acetate in hexanes to give 1,1-dimethylethyl 4-{3-methyl-4-[(methyloxy)carbonyl]-2-oxo-1-imidazolidinyl}-1-piperidinecarboxylate (205 mg, 15%), LC/MS [M+H]+=342. (iv) A solution of 1,1-dimethylethyl 4-{3-methyl-4-[(methyloxy)carbonyl]-2-oxo-1-imidazolidinyl}-1-piperidinecarboxylate (200 mg, 0.58 mmol) in THF (3 ml) was stirred at 0° C. A solution of lithium hydroxide (15 mg, 0.64 mmol) in water (2 ml) was added and the reaction was stirred at 0° C. under argon for 90 minutes. The solution was acidified to pH 4 with 2N hydrochloric acid and the solvent was evaporated. The residue was co-evaporated with toluene and the residue dried over phosphorous pentoxide under high vacuum to give crude 1-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid which was used in the next step, LC/MS [M+H]+=328. (v) To a stirred suspension of 1-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid (0.55 mmol) in dichloromethane (10 ml) was added 1-hydroxybenzotriazole hydrate (89 mg, 0.66 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (127 mg, 0.66 mmol) and N-ethyl morpholine (0.21 ml, 1.65 mmol) and the mixture was stirred at room temperature for 15 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (115 mg, 0.55 mmol) was added and the reaction was stirred at room temperature for 3 hours. The reaction was diluted with dichloromethane and the solution was washed with saturated sodium hydrogen carbonate solution, water, citric acid solution, water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 5-10% methanol in dichloromethane to give 1,1-dimethylethyl 4-{4-[({[2-chloro-3-(trifluoromethyl)phenyl]methyl}amino)carbonyl]-3-methyl-2-oxo-1-imidazolidinyl}-1-piperidinecarboxylate (243 mg, 85%), LC/MS [M+H]+=519, retention time=2.89 minutes.

reactant | 1,1-dimethylethyl 4-{3-methyl-4-[(methyloxy)carbonyl]-2-oxo-1-imidazolidinyl}-1-piperidinecarboxylate | 0.58 mmol, 200 mg | CN1C(N(CC1C(=O)OC)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C16H27N3O5
reactant | lithium hydroxide | 0.64 mmol, 15 mg | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 1-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)-3-methyl-2-oxo-4-imidazolidinecarboxylic acid | CC(C)(C)OC(=O)N1CCC(CC1)N1C(N(C(C1)C(=O)O)C)=O | C15H25N3O5
